US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (282 mg, 0.662 mmol), 6-fluoro-5-hydroxyindole (120 mg, 0.794 mmol), (prepared as described for the starting material in Example 242), in DMF (3 ml) containing potassium carbonate (137 mg, 0.994 mmol) was heated at 95° C. for 3 hours. After cooling, the residue was poured in water (12 ml) and the pH was adjusted to 8. The mixture was extracted with ethyl acetate. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by preparative column chromatography on C18 silica eluting with 60% methanol in aqueous ammonium carbonate (2 g ammonium carbonate/liter saturated with CO2). The fractions containing the expected product were combined and evaporated. The residue was triturated with ether and the solid was filtered, dried under vacuum to give 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (147 mg, 48%).

reactant | 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 0.662 mmol, 282 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C17H23ClN4O2
reactant | 6-fluoro-5-hydroxyindole | 0.794 mmol, 120 mg | FC1=C(C=C2C=CNC2=C1)O | C8H6FNO
reactant | potassium carbonate | 0.994 mmol, 137 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 12 ml | O | H2O
product | 4-(6-fluoroindol-5-yloxy)-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 147 mg, 48% | FC1=C(C=C2C=CNC2=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C25H28FN5O3
